US04409241
(a) Preparation of 2-bromacetamido-2', 5-dichlorobenzophenone
To an iced solution of 266 g (1 mol) of 2-amino-2', 5-dichlorobenzophenone in 3 liters of ethyl ether there are added, drop by drop, 90 cc (1.1 mol) of bromacetyl chloride dissolved in 500 cc of ethyl ether. The batch is allowed to come to room temperature, whereupon it is evaporated to dryness and the crystalline residue extracted with petroleum ether and filtered. In this manner, 371 g of crystals are recovered.

reactant | 2-amino-2', 5-dichlorobenzophenone | 1 mol, 266 g | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C13H9Cl2NO
reactant | bromacetyl chloride | 1.1 mol, 90 cc | BrCC(=O)Cl | C2H2BrClO
solvent | ethyl ether | 3 liters | C(C)OCC | C4H10O
solvent | ethyl ether | 500 cc | C(C)OCC | C4H10O
product | 2-bromacetamido-2', 5-dichlorobenzophenone | BrCC(=O)NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C15H10BrCl2NO2
